US06531491B1
N-[3-(2-Benzo[1,3]dioxol-5-yl-vinyl)-1H-indazol-6yl]-N-methyl-benzene-1,3-diamine
{3-(2-Benzo[1,3]dioxol-5-yl-vinyl)-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methyl-(3-nitro-phenyl)-amine was converted to [3-(2-Benzo[1,3]dioxol-5-yl-vinyl)-1H-indazol-6-yl]-methyl-(3-nitro-phenyl)-amine as described in Example 11. LCMS (ESI) [M+H]/z Calc'd 415, found 415. Anal. Calc'd: C, 66.66; H, 4.38; N, 13.52. Found: C, 66.56; H, 4.48; N, 13.35.

reactant | {3-(2-Benzo[1,3]dioxol-5-yl-vinyl)-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-methyl-(3-nitro-phenyl)-amine | O1COC2=C1C=CC(=C2)C=CC2=NN(C1=CC(=CC=C21)N(C2=CC(=CC=C2)[N+](=O)[O-])C)COCC[Si](C)(C)C | C29H32N4O5Si
reactant | [3-(2-Benzo[1,3]dioxol-5-yl-vinyl)-1H-indazol-6-yl]-methyl-(3-nitro-phenyl)-amine | O1COC2=C1C=CC(=C2)C=CC2=NNC1=CC(=CC=C21)N(C2=CC(=CC=C2)[N+](=O)[O-])C | C23H18N4O4
product | N-[3-(2-Benzo[1,3]dioxol-5-yl-vinyl)-1H-indazol-6yl]-N-methyl-benzene-1,3-diamine | O1COC2=C1C=CC(=C2)C=CC2=NNC1=CC(=CC=C21)N(C2=CC(=CC=C2)N)C | C23H20N4O2
